US07417040B2
To a solution 3-Bromo-8-chloro-5,10-dihydro-indeno[1,2-b]indole (4.2 g, 13 mmol) in chloroform (150 mL) and 5% aqueous NaHCO3 (56 mL) was added mCPBA (7.5 g, 43 mmol) in chloroform (150 mL) dropwise over 30 minutes. The reaction mixture was stirred at room temperature for 2 hours and the layers were separated. The organic layer was washed with saturated aqueous NaHCO3, dried (Na2SO4), filtered and concentrated. The resulting oil was triturated with ether and filtered. The filter cake was washed with ether and dried in vacuo to give 8-Bromo-2-chloro-5H,11H-dibenzo[b,f]azocine-6-12-dione (2.0 g, 43%). 1HNMR (CDCl3) δ 7.67 (d, 1H, J+2.20 Hz), 7.59 (d, 1H, J=1.76 Hz), 7.42 (dd, 1H, J=7.92, 1.76 Hz), 7.32 (dd, 1H, J=8.01, 2.20 Hz), 7.02 (m, 2H), 4.44 (d, 1H, J=15.40 Hz), 3.85 (d, 1H, J=14.96 Hz). HPLC Rt=3.65 min.

reactant | 3-Bromo-8-chloro-5,10-dihydro-indeno[1,2-b]indole | 13 mmol, 4.2 g | BrC1=CC=C2CC3=C(NC=4C=CC(=CC34)Cl)C2=C1 | C15H9BrClN
reactant | mCPBA | 43 mmol, 7.5 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | 56 mL | C(=O)(O)[O-].[Na+]
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-Bromo-2-chloro-5H,11H-dibenzo[b,f]azocine-6-12-dione | 2.0 g, 43% | BrC1=CC2=C(CC(C3=C(NC2=O)C=CC(=C3)Cl)=O)C=C1 | C15H9BrClNO2
